US08865726B2
(R)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(3,4-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (4.12 g, 65%) was prepared by the procedure described in Example 99, Step 1, using 4-bromo-1,2-difluorobenzene and (R,E)-N-(2-(tert-butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide.

reactant | 4-bromo-1,2-difluorobenzene | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | (R,E)-N-(2-(tert-butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OC\C=N\[S@](=O)C(C)(C)C | C12H27NO2SSi
product | (R)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(3,4-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 4.12 g, 65% | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)F)F)N[S@](=O)C(C)(C)C | C18H31F2NO2SSi
